US05958942
ii) Synthesis of 2-methyl-3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethanesulfonamido)butan-1-yl)aminomethyl]imidazo[1,2-a]pyridine
To a solution of 2.90 g (6.24 mmol) of 2-methyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethane-sulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine and 2.29 g (18.73 mmol) of 4-dimethylaminopyridine in 25 ml of chloroform was added dropwise, for 3 minutes, 2.1 ml (18.73 mmol) of trichloroacetyl chloride. The reaction mixture was heated for 20 hours under reflux. The reaction mixture was then poured into ice-water, which was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with 100 ml of chloroform. The organic layer was washed with 200 ml of a saturated aqueous saline solution and dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=100:1) to give 2.47 g of the desired compound (65.2%, pale yellow liquid).

reactant | 2-methyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethane-sulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 6.24 mmol, 2.90 g | CC=1N=C2N(C(=CC=C2)CN(CCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)C1 | C19H27F3N4O4S
reactant | trichloroacetyl chloride | 18.73 mmol, 2.1 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 18.73 mmol, 2.29 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[4-(trifluoromethanesulfonamido)butan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 2.47 g, 65.2% | CC=1N=C2N(C(=CC=C2)CN(CCCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)C1C(C(Cl)(Cl)Cl)=O | C21H26Cl3F3N4O5S
